US07514400B2
3β-Azido-5-cholestene.
To a solution of 3β-cholest-5-en-3-yl methanesulfonate (9.30 g, 20.0 mmol) in anhydrous CH2Cl2 (100 mL), TMSN3 (2.95 mL, 22.0 mmol) was added, followed by boron trifluoride etherate (5.0 mL, 40.0 mmol). The reaction was stirred at 22° C. for 2 h. When the starting material was no longer visible by TLC analysis (hexanes), the reaction was slowly poured into saturated aqueous NaHCO3 (100 mL) and vigorously stirred for 10 min. The organic layer was separated and the aqueous layer was extracted with diethyl ether (60 mL×2). The organic layers were combined, washed with deionized water (100 mL), dried over anhydrous Na2SO4 and concentrated under reduced pressure to give the crude product as light yellow solid. Flash column chromatography (hexanes) afforded the product (7.75 g, 94.1%) as white solid, mp 84-86° C.; 1H NMR (300 MHz, CDCl3) δ 5.38 (s, 1H), 3.26-3.15 (m, 1H), 2.28 (d, J=7.9 Hz, 2H), 2.05-0.85 (m, 38H), 0.68 (s, 3H); 13C NMR (75.4 MHz, CDCl3) δ 139.8, 122.5, 61.1, 56.7, 56.1, 50.1, 42.3, 39.7, 39.5, 38.1, 37.6, 36.6, 36.2, 35.8, 31.8, 31.7, 28.2, 28.0, 27.9, 24.2, 23.8, 22.8, 22.5, 21.0, 19.2, 18.7, 11.8; IR (film) ν max 2934, 2896, 2861, 2097, 1464, 1443, 1377, 1367,1243, 1231 cm−1; APCI m/z 411.3607 (M+, C27H45N3 requires 411.3613).

reactant | 3β-cholest-5-en-3-yl methanesulfonate | 20.0 mmol, 9.30 g | CS(=O)(=O)O[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C28H48O3S
reactant | TMSN3 | 22.0 mmol, 2.95 mL | [Si](C)(C)(C)N=[N+]=[N-] | C3H9N3Si
reactant | boron trifluoride etherate | 40.0 mmol, 5.0 mL | B(F)(F)F.CCOCC
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 3β-Azido-5-cholestene | 7.75 g, 94.1% | N(=[N+]=[N-])[C@@H]1CC2=CC[C@H]3[C@@H]4CC[C@H]([C@@H](CCCC(C)C)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C27H45N3
